US04968710
Under a nitrogen atmosphere a mixture of 8.66 g (0.030 mole) of 4-(3,5-di-t-butyl-4-hydroxyphenoxy)butyronitrile, 6.42 g (0.047 mole) of triethylammonium chloride, 5.79 g (0.089 mole) of sodium azide and 250 ml of 1-methylpyrrolidinone was heated about 150° C. for about 72 hours. The reaction mixture was poured into water. The pH was adjusted to pH 1 with 10% hydrochloric acid and then the mixture was extracted eight times with 100 ml portions of diethyl ether. The diethyl ether extracts were combined, washed with brine, dried over magnesium sulfate and then evaporated to provide a yellow orange oil. The oil was purified by silica gel chromatography eluting with 2:1 hexane:acetone containing 3 ml of acetic acid per 2000 ml of solvent, followed by recrystallization from a mixture of ethyl acetate and hexane to provide 2.66 g of 5-[3-(3,5-di-t-butyl-4-hydroxyphenoxy)propyl]tetrazole as a white solid, m.p. 179°-180° C. Analysis: Calculated for C18H28N4O2, %C, 65.0; %H, 8.5; %N, 16.8; Found: %C, 65.3; %H, 8.5; %N, 16.8.

reactant | 4-(3,5-di-t-butyl-4-hydroxyphenoxy)butyronitrile | 0.030 mole, 8.66 g | C(C)(C)(C)C=1C=C(OCCCC#N)C=C(C1O)C(C)(C)C | C18H27NO2
reactant | triethylammonium chloride | 0.047 mole, 6.42 g | [Cl-].C(C)[NH+](CC)CC
reactant | sodium azide | 0.089 mole, 5.79 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | 1-methylpyrrolidinone | 250 ml | CN1C(CCC1)=O | C5H9NO
product | 5-[3-(3,5-di-t-butyl-4-hydroxyphenoxy)propyl]tetrazole | 2.66 g | C(C)(C)(C)C=1C=C(OCCCC2=NN=NN2)C=C(C1O)C(C)(C)C | C18H28N4O2
